US06235778B1
a) 2-[5-Methyl-3-(2-(methylsulfonyl)phenylsulfonyloxy)phenoxy]ethoxytoluene
A solution of 5-methyl-3-[2-(methylsulfonyl)phenylsulfonyloxy]phenol (505 mg, 1.47 mmol), as prepared in step a of Example 8, 2-benzyloxyethanol (209 μL, 1.47 mmol), 1,1′-(azodicarbonyl)dipiperidine (444 mg, 1.76 mmol) and anhydrous tetrahydrofuran (10 mL), was cooled to 0° C. under nitrogen. Neat tri-N-butylphosphine (0.44 mL, 1.77 mmol) was added over 3.5 minutes. The solution was stirred at 0° C. for 1 hour and then at ambient temperature overnight. Diethyl ether was added and the mixture was filtered. The solid was discarded and the filtrate was concentrated in vacuo. The product was purified by flash column chromatography through 40 g of silica gel using 0% to 0.5% diethyl ether in dichloromethane to give the title compound (495 mg, 71%) as a colorless solid. 1H-NMR (300 MHz, CDCl3) δ8.44 (dd, 1H, J=7.9, 1.3 Hz), 8.10 (dd, 1H, J=7.9, 1.3 Hz), 7.85 (td, 1H, J=7.7, 1.4 Hz), 7.71 (td, 1H, J=7.7, 1.4 Hz), 7.28-7.37 (m, 5H), 6.58-6.63 (m, 3H), 4.60 (s, 2H), 4.02 (m, 1H), 3.76 (m, 1H), 3.45 (s, 3H), 2.23 (s, 3H). Mass spectrum (MALDI-TOF, α-cyano-4-hydroxycinnamic acid matrix) calcd. for C23H24O7S2: 499.1 (M+Na), Found: 498.7.

reactant | 5-methyl-3-[2-(methylsulfonyl)phenylsulfonyloxy]phenol | 1.47 mmol, 505 mg | CC=1C=C(C=C(C1)O)OS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C | C14H14O6S2
reactant | 2-benzyloxyethanol | 1.47 mmol, 209 μL | C(C1=CC=CC=C1)OCCO | C9H12O2
reactant | 1,1′-(azodicarbonyl)dipiperidine | 1.76 mmol, 444 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | tri-N-butylphosphine | 1.77 mmol, 0.44 mL | CCCCP(CCCC)CCCC | C12H27P
solvent | Diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-[5-Methyl-3-(2-(methylsulfonyl)phenylsulfonyloxy)phenoxy]ethoxytoluene | 495 mg, 71% | CC=1C=C(C=C(OCCOC2=C(C=CC=C2)C)C1)OS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C | C23H24O7S2
